US08492401B2
5-(2-(1,3-dioxolan-2-yl)ethyl)-2-phenyl-N-(2-(thiazolo[5,4-b]pyridin-2-yl)phenyl)thiazole-4-carboxamide (250 mg, 0.5 mmol) was dissolved in a mixture of THF (4 mL), AcOH (8 mL) and H2O (0.5 mL), heated at reflux for 16 h, then concentrated to dryness. The residue was dissolved in EtOAc, washed with sat aq NaHCO3, dried (MgSO4), and concentrated under reduced pressure. The crude product was purified by MPLC eluting with CH2Cl2/MeOH (0-5% gradient) to give 5-(3-oxopropyl)-2-phenyl-N-(2-(thiazolo[5,4-b]pyridin-2-yl)phenyl)thiazole-4-carboxamide (200 mg, 87% yield).

reactant | 5-(2-(1,3-dioxolan-2-yl)ethyl)-2-phenyl-N-(2-(thiazolo[5,4-b]pyridin-2-yl)phenyl)thiazole-4-carboxamide | 0.5 mmol, 250 mg | O1C(OCC1)CCC1=C(N=C(S1)C1=CC=CC=C1)C(=O)NC1=C(C=CC=C1)C=1SC2=NC=CC=C2N1 | C27H22N4O3S2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | AcOH | 8 mL | CC(=O)O | C2H4O2
solvent | H2O | 0.5 mL | O | H2O
product | 5-(3-oxopropyl)-2-phenyl-N-(2-(thiazolo[5,4-b]pyridin-2-yl)phenyl)thiazole-4-carboxamide | 200 mg, 87% yield | O=CCCC1=C(N=C(S1)C1=CC=CC=C1)C(=O)NC1=C(C=CC=C1)C=1SC2=NC=CC=C2N1 | C25H18N4O2S2
